US08541589B2
A mixture of 4-(3-chloropyrazin-2-yl)-1-naphthonitrile (0.16 g, 0.6 mmol), methyl thioglycolate (0.127 g, 1.2 mmol) and sodium carbonate (0.082 g, 0.78 mmol) in DMF (1 mL) was heated under microwave irradiation to 130° C. for 1 hour. The mixture was washed with water, extracted with ethyl acetate and purified by chromatography to yield methyl 2-(3-(4-cyanonaphthalen-1-yl)pyrazin-2-ylthio)acetate (0.127 g, 63%).

reactant | 4-(3-chloropyrazin-2-yl)-1-naphthonitrile | 0.6 mmol, 0.16 g | ClC=1C(=NC=CN1)C1=CC=C(C2=CC=CC=C12)C#N | C15H8ClN3
reactant | methyl thioglycolate | 1.2 mmol, 0.127 g | C(CS)(=O)OC | C3H6O2S
reactant | sodium carbonate | 0.78 mmol, 0.082 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | methyl 2-(3-(4-cyanonaphthalen-1-yl)pyrazin-2-ylthio)acetate | 0.127 g, 63% | C(#N)C1=CC=C(C2=CC=CC=C12)C=1C(=NC=CN1)SCC(=O)OC | C18H13N3O2S
